US07754729B2
Comparison compound A: N-(4-(3-bromophenylamino)quinazolin-6-yl)propionamide
N4-(3-bromophenyl)quinazoline-4,6-diamine (100 mg, 0.32 mmol), pyridine (0.3 mL), and DMAP (20 mg) were dissolved in 10 mL of anhydrous THF. The solution was cooled to 5° C. Propionyl chloride (33 mg, 0.35 mmol) was added to the reaction flask dropwise. Ice bath removed was removed, and the reaction mixture was stirred at room temperature and filtered. The filtrate was dried in vacuo to give a yellow solid. The yellow solid was dissolved in ethyl acetate, washed once with saturated Na2CO3, then with 10% acetic acid, and then with brine. The organic phase was dried, filtered, and stripped of solvent in vacuo to give a crude product which was purified by TLC to give the title compound as a whitish product.

reactant | N4-(3-bromophenyl)quinazoline-4,6-diamine | 0.32 mmol, 100 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
reactant | Propionyl chloride | 0.35 mmol, 33 mg | C(CC)(=O)Cl | C3H5ClO
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(3-bromophenylamino)quinazolin-6-yl)propionamide | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(CC)=O | C17H15BrN4O
